US08440681B2
A mixture of (±)-α-amino-ε-caprolactam (256 mg, 2.0 mmol), 2,4,5-trichloropyrimidine (366 mg, 2.0 mmol, 1 equiv.) and NaHCO3 (168 mg, 2 mmol, 1 equiv.) in a mixture of MeOH (12 mL) and H2O (6 mL) is stirred at room temperature for 15 h. The resulting precipitate is collected by vacuum filtration and washed with small amounts of MeOH and water, providing the product 3-(2,5-dichloropyrimidin-4-ylamino)azepan-2-one; ESMS m/z 275.0 (M+H+).

reactant | (±)-α-amino-ε-caprolactam | 2.0 mmol, 256 mg | NC1C(=O)NCCCC1 | C6H12N2O
reactant | 2,4,5-trichloropyrimidine | 2.0 mmol, 366 mg, 1 equiv. | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | NaHCO3 | 2 mmol, 168 mg, 1 equiv. | C(=O)(O)[O-].[Na+]
solvent | MeOH | 12 mL | CO | CH4O
solvent | H2O | 6 mL | O | H2O
product | 3-(2,5-dichloropyrimidin-4-ylamino)azepan-2-one | ClC1=NC=C(C(=N1)NC1C(NCCCC1)=O)Cl | C10H12Cl2N4O
